US06919336B2
a) (5-Bromo-2-methoxy-phenyl)-[6-(2,4-difluoro-phenylamino)-pyridin-3-yl]-methanol
(5-Bromo-2-methoxy-phenyl)-[6-(2,4-difluoro-phenylamino)-pyridin-3-yl]-methanone (50 mg; 0.12 mmol), 2-tributylstannylpyridine (88 mg; 0.26 mmol) and PdCl2(PPh3)2 (25 mg; 0.035 mmol) are dissolved in xylene (2 ml) and refluxed for 4.5 hours. The reaction mixture is diluted with TBME and filtered through a bed of SiO2. The resulting solid is dissolved in ether, crystallized by adding hexanes and yields the title compound as yellowish crystals (20 mg; 40%).

reactant | (5-Bromo-2-methoxy-phenyl)-[6-(2,4-difluoro-phenylamino)-pyridin-3-yl]-methanone | 0.12 mmol, 50 mg | BrC=1C=CC(=C(C1)C(=O)C=1C=NC(=CC1)NC1=C(C=C(C=C1)F)F)OC | C19H13BrF2N2O2
reactant | 2-tributylstannylpyridine | 0.26 mmol, 88 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | xylene | 2 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | TBME | CC(C)(C)OC | C5H12O
catalyst | PdCl2(PPh3)2 | 0.035 mmol, 25 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (5-Bromo-2-methoxy-phenyl)-[6-(2,4-difluoro-phenylamino)-pyridin-3-yl]-methanol | 20 mg, 40% | BrC=1C=CC(=C(C1)C(O)C=1C=NC(=CC1)NC1=C(C=C(C=C1)F)F)OC | C19H15BrF2N2O2
